US05834506
3-(tert-Butyl4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-phenethyl-6-phenyl-5,6-dihydro-pyran-2-one (S isomer)
The title compound was prepared as described in General Method 9 using 0.12 g (0.40 mmol) of (S)-4-hydroxy-6-phenethyl-6-phenyl-5,6-dihydro-pyran-2-one (prepared in Example VV), 0.16 g (0.44 mmol) of toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl) ester (prepared in Example FFF), 0.22 g (1.6 mmol) of K2CO3, and DMF (2 mL). Upon standard work-up, the residue was chromatographed on silica gel, eluting with 4:1 CHCl3 :EtOAc, to give the title compound, m.p. 186°-187° C. 1H NMR (DMSO-d6) δ (s, 9 H), 1.75 (s, 3 H), 2.25 (m, 3 H), 2.55 (m, 1 H), 3.51 (q, partially obscured by H2O, 2 H), 4.32 (br s, 2 H), 4.90 (br s, 1 H), 6.17 (s, 1 H), 7.09 (m, 2 H), 7.15 (m, 1 H), 7.23 (m, 3 H), 7.37 (m, 1 H), 7.44 (m, 4 H).

reactant | (S)-4-hydroxy-6-phenethyl-6-phenyl-5,6-dihydro-pyran-2-one | 0.40 mmol, 0.12 g | OC1=CC(O[C@@](C1)(C1=CC=CC=C1)CCC1=CC=CC=C1)=O | C19H18O3
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl) ester | 0.44 mmol, 0.16 g | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | K2CO3 | 1.6 mmol, 0.22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(tert-Butyl4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-phenethyl-6-phenyl-5,6-dihydro-pyran-2-one | C(C)(C)(C)S(C=1C(OC(CC1O)(C1=CC=CC=C1)CCC1=CC=CC=C1)=O)C1=CC=C(C(=C1)C)CO | C31H36O4S
